US07214690B2
This compound was prepared according to General Method 6 (EXAMPLE 3) from (3R)-4-(2-chloro-2,2-difluoroethyl)-3,4-dihydro-8-isopropoxy-3-isopropyl-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline (30 mg, 0.1 mmol) and NaBH4 pellets (large excess, >10 equiv) in 3 mL chlorodifluoroacetic acid (0.03 M) stirred at rt for 12 h, to afford 22 mg (57%) of (3R)-4-ethyl-3,4-dihydro-8-isopropoxy-3-methyl-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline. 1H NMR (500 MHz, CDCl3) δ 7.44 (d, J=9.3, 1H), 7.30 (d, J=9.3, 1H), 7.21 (s, 1H), 5.98 (m, 1H), 5.49 (m, 1H), 4.55 (dd, J=10.7, 2.4, 1H), 3.84 (dd, J=10.7, 2.4, 1H), 3.79 (m, 1H), 3.54 (m, 1H), 2.93 (m, 1H), 1.84 (m, 1H), 1.39 (d, J=6.3, 3H), 1.38 (d, J=6.3, 3H), 1.00 (d, J=9.8, 3H), 0.99 (d, J=9.8, 3H).

reactant | (3R)-4-(2-chloro-2,2-difluoroethyl)-3,4-dihydro-8-isopropoxy-3-isopropyl-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline | 0.1 mmol, 30 mg | ClC(CN1[C@@H](COC2=C3C(=CC(=NC3=CC=C21)OC(C)C)C(F)(F)F)C(C)C)(F)F | C20H22ClF5N2O2
reactant | NaBH4 | [BH4-].[Na+]
solvent | chlorodifluoroacetic acid | 0.03 M, 3 mL | ClC(C(=O)O)(F)F | C2HClF2O2
product | (3R)-4-ethyl-3,4-dihydro-8-isopropoxy-3-methyl-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline | 22 mg, 57% | C(C)N1[C@@H](COC2=C3C(=CC(=NC3=CC=C21)OC(C)C)C(F)(F)F)C | C18H21F3N2O2
